US05281742
2N sodium hydroxide aqueous solution (3.5 ml) was added to an ethanol solution (1.5 ml) of methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate (1.507 g, 5.24 mmol), and the mixture was heated under reflux for 2 hours. After reaction, the reaction liquid was cooled to room temperature, water was added thereto, and this was extracted with ethyl acetate (20 ml ×2). The organic layer was washed with water and saturated brine and then dried over anhydrous magnesium sulfate. The drying agent was taken out by filtration, and the solvent was removed by distillation under reduced pressure, to obtain 2-fluoro-4-chloro-5-cyclopentyloxyaniline (1.20 g, 5.22 mmol). Yield: ~100 %.

reactant | sodium hydroxide | 2N, 3.5 ml | [OH-].[Na+]
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | methyl N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)carbamate | 5.24 mmol, 1.507 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(OC)=O | C13H15ClFNO3
solvent | water | O | H2O
product | 2-fluoro-4-chloro-5-cyclopentyloxyaniline | 5.22 mmol, 1.20 g, Yield: ~100 % | FC1=C(N)C=C(C(=C1)Cl)OC1CCCC1 | C11H13ClFNO
